US08633173B2
N-[4-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (300.0 mg, 1.408 mmol) and N-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (500.0 mg, 1.607 mmol) in a manner analogous to Step 2c. The reaction product was isolated as an off-white solid (0.33 g, 73%). MP=245-247° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.55 (d, J=5.8 Hz, 1H), 8.12 (d, J=7.5 Hz, 2H), 7.72 (d, J=7.1, 1H), 7.52 (d, J=7.2 Hz, 2H), 6.98 (t, J=6.2 Hz, 1H), 6.11 (s, 2H), 3.29 (s, 3H), 2.98 (s, 3H). MS=318 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 1.408 mmol, 300.0 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | N-methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 1.607 mmol, 500.0 mg | CN(S(=O)(=O)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
product | N-[4-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
